US07799937B2
Preparation of Hydrochlorothiazide Zinc Complex
Hydrochlorothiazide (120 mg) was dissolved in 0.5 mL of anhydrous DMSO, after which 0.4 mL of 1 M potassium t-butoxide in t-butanol was added and the solution stirred for 10 minutes. Zinc chloride in diethyl ether (0.2 mL of 1M solution) was added and the solution stirred for 4 hours. The solution was concentrated in vacuo at 30° C., after which 0.5 mL of methanol was added and the mixture triturated and transferred to a 2 mL microcentrifuge tube. The product was separated from the liquid by centrifuging at 8,000 rpm for 6 minutes and the supernatant was decanted. The pellet was washed by adding 0.5 mL of methanol, vortex mixed, centrifuged and the supernatant decanted. The washing procedure was repeated. After an overnight drying under high vacuum the yield was 104 mg of a free flowing white powder. The product was apparently hygroscopic due to the powder turning gummy after a few minutes exposure to ambient air. The 1H NMR spectrum resembled a polymeric structure (FIG. 21), which contained broad multiplets between 6.3 and 8.0 ppm, and 4.4 and 5.9 ppm. The product structure could not be accurately characterized by 1H NMR, possibly due to the different permutations of complex forms possible with anionic hydrochlorothiazide and zinc, and the moderately slow equilibrium between those isomeric complex forms. Confirmation was observed by adding approximately 1 equivalent of 12 N HCl to the NMR sample and reanalyzing by 1H NMR, which revealed reversion of the zinc complex back to hydrochlorothiazide and, presumably, zinc chloride (FIG. 22). The product was further characterized by MALDI-ES and ICP. MALDI-ES: Molecular ions at 705.9 and 932.9 with typical zinc isotopic abundances but not indicative of any particular hydrochlorothiazide zinc complex structure. Zinc analysis (ICP): Found 10.4%. FTIR (neat): cm−1 1027 (S═O stretch), 953 (S═O—Zn stretch); absence of N—H stretch at 1646. NMR, MALDI and ICP data clearly indicate the formation of a hydrochlorothiazide-zinc complex. It seems reasonable that the site of complexation may be on one or both of the sulfonamide nitrogens of hydrochlorothiazide. FTIR data suggest the presence of DMSO ligands, which by 1H NMR integration the ratio of HCTZ:DMSO is 1:1. Chemical shift of the DMSO methyl groups of 0.08 ppm suggests O-bonding between zinc and DMSO.

reactant | Hydrochlorothiazide | 120 mg | C1=C2C(=CC(=C1Cl)S(=O)(=O)N)S(=O)(=O)NCN2 | C7H8ClN3O4S2
reactant | potassium t-butoxide | 1 M, 0.4 mL | CC(C)([O-])C.[K+]
reactant | Zinc chloride | [Cl-].[Zn+2].[Cl-]
reactant | HCl | 12 N, approximately 1 equivalent | Cl | ClH
reactant | zinc | [Zn] | Zn
reactant | S═O | S=O | OS
reactant | S═O Zn | S=O.[Zn]
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
solvent | t-butanol | C(C)(C)(C)O | C4H10O
solvent | diethyl ether | 1M, 0.2 mL | C(C)OCC | C4H10O
product | Hydrochlorothiazide Zinc | C1=C2C(=CC(=C1Cl)S(=O)(=O)N)S(=O)(=O)NCN2.[Zn] | InChI=1S/C7H8ClN3O4S2.Zn/c8-4-1-5-7(2-6(4)16(9,12)13)17(14,15)11-3-10-5;/h1-2,10-11H,3H2,(H2,9,12,13);
